US06130187
Preparation of 3-(2-carboxy-4-chloro-6-fluorobenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil (Compound No. 42)
1.5 g (3.84 mmol) of 3-(4-chloro-6-fluoro-2-formylbenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil was dissolved in 20 ml of acetone, and a Jones' reagent was dropwise added thereto at 5° C. until the orange color no longer disappeared. After completion of the reaction, the reaction solution was poured into water and extracted with ethyl acetate. The organic layer was washed sequentially with water and a saturated sodium chloride aqueous solution and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. Then, the obtained residue was purified by silica gel column chromatography to obtain 1.2 g (yield: 76.9%) of the desired product as white crystals. Melting point: 267-268° C. (decomposed).

reactant | 3-(4-chloro-6-fluoro-2-formylbenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil | 3.84 mmol, 1.5 g | ClC1=CC(=C(C2=C1C=C(O2)C=O)N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F | C15H7ClF4N2O4
reactant | Jones' reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | water | O | H2O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 3-(2-carboxy-4-chloro-6-fluorobenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil | 1.2 g, yield: 76.9% | C(=O)(O)C=1OC2=C(C1)C(=CC(=C2N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F)Cl | C15H7ClF4N2O5
